US04350697
700 g of methyl isonicotinate and 1.4 kg of methyl iodide were admixed in 2.0 liters of methanol and the resultant solution was stirred and refluxed for 5 hours. After cooling, the mixture was filtered off and the product was washed with ether and dried to obtain 1.385 kg of 4-methoxycarbonyl-1-methylpyridinium iodide (97.2% yield).

reactant | methyl isonicotinate | 700 g | C(C1=CC=NC=C1)(=O)OC | C7H7NO2
reactant | methyl iodide | 1.4 kg | CI | CH3I
solvent | methanol | 2.0 liters | CO | CH4O
product | 4-methoxycarbonyl-1-methylpyridinium iodide | 1.385 kg, 97.2% yield | [I-].COC(=O)C1=CC=[N+](C=C1)C | InChI=1S/C8H10NO2.HI/c1-9-5-3-7(4-6-9)8(10)11-2;/h3-6H,1-2H3;1H/q+1;/p-1
